US08664401B2
Step B: (R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-(2-oxo-4-(phenylethynyl) pyridin-1(2H)-yl)butanamide
A solution of 1.0 M aqueous HCl (10 ml) was added slowly to a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-(2-oxo-4-(phenylethynyl)pyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (107 mg, 0.226 mmol) in 1,4-dioxane (20 mL) at room temperature. The reaction mixture was allowed to stir at room temperature overnight. After 18 hours the reaction was concentrated to low volume then redissolved in methanol (20 ml) and concentrated in vacuo to afford a light-yellow solid. Yield 71 mg, 81%. MS (APCI) m/z 389.4 (M+H), 1H NMR (400 MHz, DMSO-d6) δ ppm 1.46 (none, 3H) 1.53 (s, 3H) 2.03-2.17 (m, 1H) 2.33-2.45 (m, 1H) 3.07 (s, 3H) 3.71 (td, J=11.90, 4.88 Hz, 1H) 3.96-4.14 (m, 1H) 6.35 (dd, J=6.93, 1.85 Hz, 1H) 6.56 (d, J=1.76 Hz, 1H) 7.36-7.48 (m, 3H) 7.51-7.61 (m, 2H) 7.69 (d, J=7.02 Hz, 1H) 11.05 (br. s., 1H)

reactant | HCl | 1.0 M, 10 ml | Cl | ClH
reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-(2-oxo-4-(phenylethynyl)pyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.226 mmol, 107 mg | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C#CC1=CC=CC=C1)=O)S(=O)(=O)C | C24H28N2O6S
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-(2-oxo-4-(phenylethynyl) pyridin-1(2H)-yl)butanamide | ONC([C@@](CCN1C(C=C(C=C1)C#CC1=CC=CC=C1)=O)(S(=O)(=O)C)C)=O | C19H20N2O5S
